US05110975
Preparation of 2-isocyanato-methanesulfonyloxyethane
20.0 g (0.06 mol) of tetrabutylammonium methanesulfonate are added to a solution of 36.0 g (0.34 mol) of 2-chloroisocyanatoethane and 93.3 g (0.85 mol) of methyl methanesulfonate and the mixture is heated at 120° C for 6 hours. It is distilled in a thin layer evaporator at 180° C. under a pressure of 0.04 mbar and the crude product is purified by distillation. 18.0 g (0.17 mol) of 2chloroisocyanatoethane and 71.0 g (0.65 mol) of methyl methanesulfonate are recovered in this way.

reactant | 2-chloroisocyanatoethane | 0.34 mol, 36.0 g | ClCCN=C=O | C3H4ClNO
reactant | methyl methanesulfonate | 0.85 mol, 93.3 g | CS(=O)(=O)OC | C2H6O3S
reactant | 2chloroisocyanatoethane | 0.17 mol, 18.0 g | ClCCN=C=O | C3H4ClNO
reactant | methyl methanesulfonate | 0.65 mol, 71.0 g | CS(=O)(=O)OC | C2H6O3S
catalyst | tetrabutylammonium methanesulfonate | 0.06 mol, 20.0 g | CS(=O)(=O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-isocyanato-methanesulfonyloxyethane | N(=C=O)CCOS(=O)(=O)C | C4H7NO4S
